* LVS netlist generated with ICnet by 'jk526' on Sat Dec 17 2022 at 23:32:56

*
* Component pathname : $HOME/github/SkippingCarry/working_directory/schematics/iv
*
.subckt iv  VDD OUTN OUT GND IN2 IN1

        MN2 OUTN IN1 GND GND n L=2u W=6u
        MP4 OUT OUTN VDD VDD p L=2u W=16u
        MP2 N$2 IN1 VDD VDD p L=2u W=32u
        MN3 OUT OUTN GND GND n L=2u W=6u
        MP3 OUTN IN2 N$2 VDD p L=2u W=32u
        MN1 OUTN IN2 GND GND n L=2u W=6u
.ends iv

*
* Component pathname : $HOME/github/SkippingCarry/working_directory/schematics/i
*
.subckt i  IN1 IN2 IN3 VDD OUTN GND IN4 OUT

        MN4 GND IN3 N$17 GND n L=2u W=12u
        MP4 VDD IN2 N$2 VDD p L=2u W=32u
        MN1 OUTN IN1 N$8 GND n L=2u W=12u
        MP2 N$2 IN4 OUTN VDD p L=2u W=32u
        MP1 N$2 IN1 VDD VDD p L=2u W=32u
        MN3 N$17 IN4 OUTN GND n L=2u W=12u
        MP5 VDD OUTN OUT VDD p L=2u W=16u
        MN5 GND OUTN OUT GND n L=2u W=6u
        MP3 OUTN IN3 N$2 VDD p L=2u W=32u
        MN2 N$8 IN2 GND GND n L=2u W=12u
.ends i

*
* Component pathname : $HOME/github/SkippingCarry/working_directory/schematics/vi
*
.subckt vi  IN2 IN3 IN1 VDD GND OUT OUTN

        MN5 GND OUTN OUT GND n L=2u W=6u
        MP1 VDD OUTN OUT VDD p L=2u W=16u
        MN3 GND IN1 OUTN GND n L=2u W=12u
        MN2 N$8 IN3 GND GND n L=2u W=12u
        MN1 OUTN IN2 N$8 GND n L=2u W=12u
        MP4 VDD IN3 N$2 VDD p L=2u W=32u
        MP3 OUTN IN1 N$2 VDD p L=2u W=32u
        MP2 N$2 IN2 VDD VDD p L=2u W=32u
.ends vi

*
* Component pathname : $HOME/github/SkippingCarry/working_directory/schematics/full_adder
*
.subckt full_adder  A B AN BN CN C VDD GND SUM COUT COUTN P

        X_I$1 VDD N$111 N$90 N$33 A B iv
        X_I$17 CN P C VDD N$60 N$33 N$97 SUM i
        X_I$4 A BN AN VDD N$59 N$33 B P i
        X_I$5 C N$90 A VDD COUTN N$33 B COUT i
        X_I$3 B A N$111 VDD N$33 N$97 N$58 vi
.ends full_adder

